US07119207B2
6-Methoxy-1,4-dimethyl-3,4-dihydro-1H-quinolin-2-one-7-carboxaldehyde
To a flame dried round bottom flask equipped with a nitrogen cap was added 110 mg (0.54 mmol) 6-methoxy-1,4-dimethyl-3,4-dihydro-1H-quinolin-2-one, 3 ml of trifluoroacetic acid and 90 mg (0.64 mmol) of hexamethylene tetraamine. The mixture was stirred under reflux for 1.5 hours and then cooled to ambient temperature. The reaction mixture was quenched first with water and then with 30 ml of saturated aqueous bicarbonate solution and extracted with chloroform (3×30 ml). The combined organics were then washed with brine followed by drying over sodium sulfate and evaporation in vacuo. The crude residue, 72 mg, was purified by silica gel column chromatography eluting with 4/6 ethyl acetate/hexane to afford 50 mg (40%) of a yellow solid which was used directly in the following step. Mass spectrum APCI m/e 234 (p+1). Enantiomeric separation was completed on a Chiralpak AD column eluting with 9/1 hexane/ethanol(EtOH) containing 1% diethylamine. The retention times were 12 minutes and 13.8 minutes respectively.

reactant | 6-methoxy-1,4-dimethyl-3,4-dihydro-1H-quinolin-2-one | 0.54 mmol, 110 mg | COC=1C=C2C(CC(N(C2=CC1)C)=O)C | C12H15NO2
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hexamethylene tetraamine | 0.64 mmol, 90 mg | C1N2CN3CN1CN(C2)C3 | C6H12N4
product | 6-Methoxy-1,4-dimethyl-3,4-dihydro-1H-quinolin-2-one-7-carboxaldehyde | 50 mg, 40% | COC=1C=C2C(CC(N(C2=CC1C=O)C)=O)C | C13H15NO3
